US08877815B2
To a solution of 1-(2-chloroallyl)cyclopentanecarboxylic acid (51 mg, 0.27 mmol) in DMF (1 mL) and CH2Cl2 (2 mL) was added (S)-2-amino-3-(biphenyl-4-yl)-N,N-dimethylpropanamide TFA salt (109 mg, 0.41 mmol) and TEA (0.19 mL, 1.35 mmol). To the mixture at room temperature was added HATU (154 mg, 0.41 mmol) and stirred at room temperature for 47 hours. The mixture was quenched with saturated NaHCO3 and extracted with EtOAc. The organic layer was washed with brine, dried over MgSO4, filtered, and concentrated under reduced pressure. The obtained residue was purified by TLC preparation plates using 70% EtOAc/heptane to give (S)—N-(3-(biphenyl-4-yl)-1-(dimethylamino)-1-oxopropan-2-yl)-1-(2-chloroallyl)cyclopentanecarboxamide (83 mg). HPLC retention time=1.76 minutes (condition B); MS (m+1)=439.1; 1H NMR (400 MHz, DMSO-d6) δ ppm 1.38-1.66 (m, 5H), 1.89-2.05 (m, 3H), 2.64 (d, J=15.3 Hz, 1H), 2.70 (d, J=15.3 Hz, 1H), 2.85 (s, 3H), 2.95 (s, 3H), 2.95 (dd, J=13.6, 6.1 Hz, 1H), 3.05 (dd, J=13.6, 6.1 Hz, 1H), 5.05 (s, 1H), 5.10 (s, 1H), 5.08-5.13 (m, 1H), 6.70 (d, J=8.1 Hz, 1H), 7.29 (d, J=8.1 Hz, 2H), 7.32-7.38 (m, 1H), 7.44 (t, J=7.7 Hz, 2H), 7.54 (d, J=8.1 Hz, 2H), 7.58-7.65 (m, 2H).

reactant | 1-(2-chloroallyl)cyclopentanecarboxylic acid | 0.27 mmol, 51 mg | ClC(CC1(CCCC1)C(=O)O)=C | C9H13ClO2
reactant | (S)-2-amino-3-(biphenyl-4-yl)-N,N-dimethylpropanamide TFA salt | 0.41 mmol, 109 mg | OC(=O)C(F)(F)F.N[C@H](C(=O)N(C)C)CC1=CC=C(C=C1)C1=CC=CC=C1
reactant | HATU | 0.41 mmol, 154 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | (S)—N-(3-(biphenyl-4-yl)-1-(dimethylamino)-1-oxopropan-2-yl)-1-(2-chloroallyl)cyclopentanecarboxamide | 83 mg | C1(=CC=C(C=C1)C[C@@H](C(=O)N(C)C)NC(=O)C1(CCCC1)CC(=C)Cl)C1=CC=CC=C1 | C26H31ClN2O2
